US06555584B1
N-[2-(3-Benzyloxybenzamido)benzenesulfonyl]-2,4-difluorobenzamide
A 300 mg (0.78 mmol) portion of benzyloxy-N-(2-sulfamoylphenyl)benzamide, 273 mg (1.55 mmol) of 2,4-difluorobenzoyl chloride and 374 mg (2.70 mmol) of potassium carbonate were dissolved in a mixed solvent (10 ml) of water and dioxane (1:1) and stirred at room temperature for 18 hours. After completion of the reaction, the solvent was evaporated under a reduced pressure. The resulting residue was extracted with ethyl acetate, washed with water and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography to obtain 350 mg (yield: 86.0%) of the title compound.

reactant | benzyloxy-N-(2-sulfamoylphenyl)benzamide | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C=CC=C2)S(N)(=O)=O)C=CC=C1 | C20H18N2O4S
reactant | 2,4-difluorobenzoyl chloride | 1.55 mmol, 273 mg | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | potassium carbonate | 2.70 mmol, 374 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 ml | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[2-(3-Benzyloxybenzamido)benzenesulfonyl]-2,4-difluorobenzamide | 350 mg, yield: 86.0% | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=C(C=CC=C2)S(=O)(=O)NC(C2=C(C=C(C=C2)F)F)=O)C=CC1 | C27H20F2N2O5S
